US09145355B2
Preparation 3: Tert-butyl ((4′-((1R,2S)-2-(2,2-dichloroacetamido)-3-fluoro-1-hydroxypropyl)-[1,1′-biphenyl]-4-yl)methyl)carbamate
To solution of commercially available (4-(((tert-butoxycarbonyl)-amino)methyl)-phenyl)boronic acid (1.01 gm, 4.02 mmol) in 1,4-dioxane:water (12.3:3.8 mL) is added 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-iodophenyl)propan-2-yl)acetamide (1.04 g, 2.56 mmol) and CS2CO3 (1.85 g, 5.67 mmol) and the resulting solution bubbled with nitrogen gas for 30 min. To this reaction mixture is added Pd(PPh3)4 (0.332 g, 0.29 mmol) and the resulting reaction mixture heated to 110° C. for 2 hours. The resulting reaction mixture is cooled, diluted with water and extracted with ethyl acetate. The organic layer dried over sodium sulfate and concentrated to give a crude residue, which is purified using column chromatography on silica gel eluting with 30% Ethyl acetate/hexane to give the title compound (668 mg). 1H NMR (400 MHz, CDCl3) δ: 1.46 (s, 8H), 4.30-4.32 (m, 1H), 4.34-4.35 (m, 2H), 4.44-4.47 (m, 0.5H), 4.55-4.59 (m, 1H), 4.68-4.69 (m, 0.5H), 4.85 (m, 1H), 5.15 (t, 1H, J=7.04 Hz), 5.87 (s, 1H), 7.04 (d, 1H, J=8.6 Hz), 7.34 (d, 2H, J=7.92 Hz), 7.44 (d, 2H, J=8.2 Hz), 7.53 (d, 2H, J=8.08 Hz), 7.57 (d, 2H, J=8.08 Hz). m/z (Cl) M−H 483

reactant | (4-(((tert-butoxycarbonyl)-amino)methyl)-phenyl)boronic acid | 4.02 mmol, 1.01 gm | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)B(O)O | C12H18BNO4
reactant | 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-iodophenyl)propan-2-yl)acetamide | 2.56 mmol, 1.04 g | ClC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)I)O)CF)Cl | C11H11Cl2FINO2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.29 mmol, 0.332 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 3.8 mL | O | H2O
product | Tert-butyl ((4′-((1R,2S)-2-(2,2-dichloroacetamido)-3-fluoro-1-hydroxypropyl)-[1,1′-biphenyl]-4-yl)methyl)carbamate | 668 mg | ClC(C(=O)N[C@@H]([C@H](O)C1=CC=C(C=C1)C1=CC=C(C=C1)CNC(OC(C)(C)C)=O)CF)Cl | C23H27Cl2FN2O4
